US05962458
A mixture of 2-bromo-4-methylpyridine (12.2 g), N-bromosuccinimide (30 g) and 2,2'-azobis(2-methylpropionitrile) (100 mg) in carbon tetrachloride (200 ml) was heated at reflux for 2.5 hours. The mixture was allowed to cool and the insoluble material removed by filtration. The solvent was removed from the filtrate by evaporation and the residue was purified by filtration through a silica pad eluting with ethyl acetate/hexane (10/1) to give 2-bromo-4-bromomethylpyridine.

reactant | 2-bromo-4-methylpyridine | 12.2 g | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | N-bromosuccinimide | 30 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2'-azobis(2-methylpropionitrile) | 100 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-4-bromomethylpyridine | BrC1=NC=CC(=C1)CBr | C6H5Br2N
